2124-03-08 08:19:00 Physician Resident Progress Note
Chief Complaint: shock, acute renal failure
   24 Hour Events:
   - Renal undecided re: HD in AM asked us to put in for IR guided but may
   not need it if continues good UOP
   - CT Head Prelim
   No acute changes. Slight decrease in region of edema surrounding known
   met in L temporal lobe.
    - CT Chest -> atypical pneumonia vs. drug-induced lung injury?
   - GPC's in his blood, already on broad spectrum
   - a. fib with RVR this morning, DC cardioversion, 100 joules, 150
   joules, started amio bolus and drip
   - worsening acidosis
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsPenicillins
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Levofloxacin - [**2124-3-7**] 05:09 AM
   Cefipime - [**2124-3-7**] 12:05 PM
   Vancomycin - [**2124-3-8**] 02:05 AM
   Metronidazole - [**2124-3-8**] 07:39 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Phenylephrine - 2 mcg/Kg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-3-7**] 09:51 AM
   Morphine Sulfate - [**2124-3-7**] 05:58 PM
   Lorazepam (Ativan) - [**2124-3-8**] 02:46 AM
   Midazolam (Versed) - [**2124-3-8**] 07:00 AM
   Amiodarone - [**2124-3-8**] 07:22 AM
   Fentanyl - [**2124-3-8**] 07:37 AM
   Other medications:
   Changes to medical and family history:
   somnolent, not answering questions
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2124-3-8**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 132 (97 - 132) bpm
   BP: 86/58(73) {81/40(53) - 134/71(122)} mmHg
   RR: 14 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
    CVP: 2 (2 - 12)mmHg
   Total In:
                                                                  7,104 mL
                                                                  4,175 mL
   PO:
   TF:
   IVF:
                                                                  6,545 mL
                                                                  4,175 mL
   Blood products:
                                                                    559 mL
   Total out:
                                                                    285 mL
                                                                    740 mL
   Urine:
                                                                    285 mL
                                                                    140 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  6,819 mL
                                                                  3,435 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.28/59/201/25/0
   PaO2 / FiO2: 502
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   33 K/uL
   8.8 g/dL
   89 mg/dL
   6.4 mg/dL
   25 mEq/L
   4.2 mEq/L
   84 mg/dL
   109 mEq/L
   148 mEq/L
   27.4 %
   21.1 K/uL
        [image002.jpg]
                             [**2124-3-6**]  02:29 AM
                             [**2124-3-6**]  04:20 AM
                             [**2124-3-6**]  03:43 PM
                             [**2124-3-6**]  07:01 PM
                             [**2124-3-7**]  02:51 AM
                             [**2124-3-7**]  11:58 AM
                             [**2124-3-7**]  04:21 PM
                             [**2124-3-8**]  04:21 AM
                             [**2124-3-8**]  07:34 AM
   WBC
   11.8
   22.0
   24.2
   17.7
   19.3
   21.1
   Hct
   31.5
   29.5
   28.6
   26.2
   27.1
   27.4
   Plt
   146
   110
   81
   56
   51
   33
   Cr
   6.8
   7.0
   7.0
   6.8
   6.7
   6.4
   TropT
   0.02
   TCO2
   16
   29
   Glucose
   87
   88
   146
   116
   118
   89
   Other labs: PT / PTT / INR:20.7/31.9/1.9, CK / CKMB /
   Troponin-T:373/8/0.02, ALT / AST:18/23, Alk Phos / T Bili:116/1.0,
   Amylase / Lipase:14/5, Differential-Neuts:18.0 %, Band:2.0 %,
   Lymph:49.0 %, Mono:17.0 %, Eos:10.0 %, Fibrinogen:311 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:206 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.9 mg/dL
   Microbiology: DIRECT INFLUENZA A ANTIGEN TEST (Final [**2124-3-7**]):
         Negative for Influenza A.
      DIRECT INFLUENZA B ANTIGEN TEST (Final [**2124-3-7**]):
         Negative for Influenza B.
   URINE CULTURE (Preliminary):
         GRAM NEGATIVE ROD(S).    10,000-100,000 ORGANISMS/ML..
   Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CLUSTERS.
      Aerobic Bottle Gram Stain (Final [**2124-3-8**]):
         REPORTED BY PHONE TO DR. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] PAGER [**Numeric Identifier 12876**] @ 0325 ON
         [**2124-3-8**].
         GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS
   BLOOD/FUNGAL CULTURE (Pending):
      BLOOD/AFB CULTURE (Pending)
   MRSA (+)
   ECG: a.fib with RVR
   Assessment and Plan
 SHOCK, OTHER
   >  A. FIB WITH RVR
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, METABOLIC
 HYPERNATREMIA (HIGH SODIUM)
 HYPOXEMIA
 THROMBOCYTOPENIA, ACUTE
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan
   68 yo male with RCC here 3 days s/p IL2 infusion with shock, renal
   failure, and altered mental status.
   .
   #  A. fib with RVR-  likely [**3-14**] volume overload and atrial stretch.
   Other factors to consider include myocardial ischmemia.  Underlying
   sepsis also likely contributing.  Patient received to attempts at DC
   cardioversion, 100 and 150 joules, which were successful and converted
   patient back into NSR, with improving blood pressure.  Patient
   unfortunately converted back into a. fib with RVR within seconds.  Amio
   bolus and drip started.
   -  cont amio gtt
   -  rule out ischemia with two sets of markers
   -  repeat TTE for new WMAs, possible worsening of effusion, evidence of
   endocarditis
   -  will need to consider anti-coagulation in future if chemical
   cardioversion unsuccessful
   -  cont levo and neo as needed for  MAP > 65
   #. Shock: hypotension in the setting of IL-2 therapy is common, though
   unusual for it to extend this far past the last dose; therefore,
   concern is for another cause for his hypotension.  Possible etiologies
   include distrubitive in setting of IL-2, septic/nfection (lung with LLL
   infiltrate, GU tract, GI tract, skin); less likely hypovolemic.  No
   evidence of obstructive, cardiogenic shock given TTE.  No evidence of
   adrenal insufficiency.  Antibiotic coverage includes health-care
   associated agents.  Fluid status is total body overloaded, but may be
   intravascularly dry given FeNa 0.7.  Likely has large insensible losses
   through skin.  Lactate trending down.  Given GPC bacteremia, skin,
   line, and endocarditis are possible sources.  A-line placed today.
   Given thrombocytopenia and possible HIT Ab, thromboembolic dz is on
   differential.
   - cont cefepime, flagyl, levoflox, and vanc.  Will dose vanc by trough
   given renal fxn
   - cont levo and neo, wean neo for MAP > 65
   - goal CVP 10-12
   - surveillance blood cultures
   -  will check LENIs, f/u HIT Ab screen
   -  TTE to eval for worsening pericardial effusion
   .
   #  GPC bacteremia, GNRs in urine- possible GPC source includes skin,
   line, endocarditis.
   -  will f/u cultures, surveillance cultures
   - 10,000-100,000 GNRs in urine, will not treat, will repeat U/A with
   culture
   -  cont Abx as above
   .
   #  Hypercapneic Respiratory Failure-  Decreased respiratory drive
   likely [**3-14**] depressed mental status, sedation.  Serial ABGs showed mild
   resp and metabolic acidosis.  Given worsening clinical picture today,
   will electively intubate to facilitate placement of HD line.
   -  stat CXR post-intubation to eval for ET tube placement
   .
   #. ARF: IL-2 mediated ARF most likely, however prerenal or ischemic ATN
   also possible.  K wnl, phos elevated though stable from last draw.  No
   evidence of obstruction in right collecting system on renal
   ultrasound.   FeNa 0.7.  Does show some UOP response to IVF boluses.
   Lactate improved.  Also on differential is pulm-renal syndrome.
   - follow Cr and electrolytes Q8
   - follow up Renal recs, appreciate input
   - follow up Renal Recs -> will place right femoral HD line and CVVH
   today following intubation
   - will check anti-GBM, [**Doctor First Name **], ANCA
   .
   #. Anion Gap Metabolic Acidosis: likely from combination of ARF and
   hypotension, lactic acidosis.  ABG appears pure met acidosis with resp
   acidosis contributing.  Lactate improved.  Remaining acidosis likely
   [**3-14**] ARF.
   - lytes as above
   .
   #. Altered Mental Status: Known metastatic disease to brain and IL-2
   can cause swelling.  He is AOx3, though slightly agitated.  Clinical
   picture not c/w meningitis/encephalitis and most likely
   toxic-metabolic.  Patient has signs of uremia on exam.
   - NO LP given intracranial masses
   - f/u final read on CT head
   .
   #  Thrombocytopenia/Coagulopathy- no evidence of hemorrhage.
   Thrombocytopenia etiology iatrogenic vs. consumptive.  Increased INR
   could be [**3-14**] poor nutrition, consumption, DIC.  No schistocytes on
   smear.
   -  fibrinogen normal.  Could have low grade DIC in setting of sepsis
   -  will give FFP and platelets to correct coagulopathy, provide colloid
   to intravascular volume, in anticipation for HD line
   -  f/u HIT Ab
   - d/c
d SC heparin
   .
   #  Hypernatremia- [**3-14**] insensible losses, decreased intake.  Will
   replete with D5W
   .
   #. RCC: finished week 2 of IL-2.  Side effects of IL-2 include
   myocarditis, ectopy, neurotoxicity, tyrombcytopenia, hypocalcemia, and
   hyperbilirubinemia.
   - tele
   - f/u Heme/Onc recs, appreciate input
   .
   FEN: CVVH, replete lytes, NPO given mental status
   .
   PPX:
   -DVT ppx with SCDs
   -Bowel regimen
   -PPI
   -Pain management with morphine/tylenol;  midaz and fent for sedation
   post-extubation
   .
   ACCESS: right subclavian, a-line, PIV
   .
   CODE STATUS: Full
   .
   EMERGENCY CONTACT: wife
   .
   DISPOSITION: ICU
   ICU Care
 see above
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:56 AM
   Arterial Line - [**2124-3-8**] 08:08 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-09 09:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Received transfusion of plts x 3.
   New left IJ dialysis cathether placed, CVVH initiated.
   Remains on vasopressors, now with vasopressin added.
   NSR now on Amioderone.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-8**] 02:05 AM
   Cefipime - [**2124-3-8**] 01:00 PM
   Levofloxacin - [**2124-3-9**] 06:15 AM
   Metronidazole - [**2124-3-9**] 07:43 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Vasopressin - 1.2 units/hour
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.2 mcg/Kg/min
   Phenylephrine - 5 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1 grams/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2124-3-8**] 10:21 AM
   Morphine Sulfate - [**2124-3-8**] 12:01 PM
   Midazolam (Versed) - [**2124-3-9**] 02:32 AM
   Pantoprazole (Protonix) - [**2124-3-9**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss,
   Hypothermia
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-3-9**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 85 (70 - 141) bpm
   BP: 112/58(75) {64/42(49) - 131/82(102)} mmHg
   RR: 22 (8 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  8,347 mL
                                                                  1,762 mL
   PO:
             TF:
   IVF:
                                                                  7,177 mL
                                                                  1,762 mL
   Blood products:
                                                                  1,170 mL
   Total out:
                                                                    917 mL
                                                                    780 mL
   Urine:
                                                                    317 mL
                                                                    141 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  7,430 mL
                                                                    982 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/41/118/25/-4
   Ve: 12 L/min
   PaO2 / FiO2: 118
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Toxic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: Erythema, diffuse, No(t) Jaundice, Desquamation
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   37 K/uL
   133 mg/dL
   5.0 mg/dL
   25 mEq/L
   3.8 mEq/L
   73 mg/dL
   106 mEq/L
   141 mEq/L
   26.1 %
   21.2 K/uL
        [image002.jpg]
                             [**2124-3-8**]  08:18 AM
                             [**2124-3-8**]  10:51 AM
                             [**2124-3-8**]  12:01 PM
                             [**2124-3-8**]  12:40 PM
                             [**2124-3-8**]  04:22 PM
                             [**2124-3-8**]  04:48 PM
                             [**2124-3-8**]  08:41 PM
                             [**2124-3-9**]  04:00 AM
                             [**2124-3-9**]  04:14 AM
                             [**2124-3-9**]  04:59 AM
   WBC
   22.7
   21.2
   Hct
   30.0
   26.1
   Plt
   45
   68
   37
   Cr
   5.7
   5.0
   TropT
   0.02
   0.01
   TCO2
   25
   27
   26
   27
   21
   26
   22
   Glucose
   172
   133
   Other labs: PT / PTT / INR:19.2/30.9/1.8, CK / CKMB /
   Troponin-T:135/9/0.01, ALT / AST:18/23, Alk Phos / T Bili:116/1.0,
   Amylase / Lipase:14/5, Differential-Neuts:38.0 %, Band:1.0 %,
   Lymph:35.0 %, Mono:8.0 %, Eos:18.0 %, Fibrinogen:311 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.2 g/dL, LDH:206 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   68 yom renal cell carcinoma --> metastatic (brain), s/p 2nd week of
   IL-2 completed and now with shock.
   RESPIRATORY FAILURE  -- may in part be due to early pulmonary edema
   (3rd spacing), with contribution of acidosis (metabolic, renal
   failure).  Monitor RR, SaO2, provide supplimental oxygen.  Continue
   mechanical ventilation.  Lung protective strategy.  Monitor ABG.
   HYPOTENSION -- Multifactorial.  Attributed in part to IL-2
   (vasodilatory and 3rd spacing due to vasculare leak), although effect
   apprears somewhat protracted, concern for superimposed sepsis.
   Intermittent A-fib likely contributing to hypotension.  No evidence for
   adrenal insufficiency.  Consider pulmonary embolism --> plan check LE
   NIVS, check cardiac echo to assess RV function .   With concern for
   sepsis (with specific concerns including skin infection,LLL pneumonia,
   line-related infection), remains on Vanco, Cefopime, Levofloxicin.
   Maintain MAP > 60 mmHg.  Vasopressors as needed.
   A-FIB -- Reverted to NSR this AM on Amioderone.  Bilateral atrial
   enlargement.  Precipitant likely context of sepsis, bacteremia, IL-2
   syndrome "cytokine storm."  Plan continue Amioderone.  Replete
   electrolytes.  Anticoagulation would be desired --> need to discuss
   with primary team, as potential use of anticoagulation complicated and
   high risk  for bleeding.
   PULMONARY INFILTRATES -- Chest CT with evidence of diffuse, patchy,
   focal infiltrates, many peripheral.  [**Month (only) 51**] be atypical pattern for
   fluid/pulmonary edema.  Concerns for possible infection, and nodular
   infiltrates raise possibility of embolic events (right sided
   endocarditis) or fungal pneumonia.  Also consider pulmonary renal
   syndrome (ex. anti-GBM Ab, Wegener's).  Check sputum, serum b-glucan
   and galactomannan.  Monitor exam and CXR, plan bronchoscopy to assess
   for respiratory process/infection (cultures, stains, cell count, etc).
   SEPSIS -- attributed in part to IL-2, but now with evidence for
   infections (bacteremia, urine source), and concerns for possible lung
   infection.  Plan continue support, including broad spectrum
   antimicrobials.
   THROMBOCYTOPENIA -- progressive.  No evidence for HIT.  Concerns
   include DIC, medication effect, or possible TTP.  Monitor plts count.
   ALTERED MENTAL STATUS -- multifactorial, including uremia, medications
   (benzodiazepines), evolving hypernatremia, reversal of sleep-wake
   cycle.  Also concerned about increased intracranial edema with known
   renal cell mets and now positive fluid balance, and also
   thrombocytopenia.  No bleed on non-contrast head CT.  Plan to move to
   intubation to control airway.
   BACTEREMIA -- S. aureus, possible line-related or skin-related.  Plan
   continue Vancomycin.  Cardiac echo without evidence for valvular
   abnormalities.
   ACUTE RENAL FAILURE -- multifactorial, attributed to IL-2, hypovolemia,
   possible ATN, single kidney.  Monitor BUN, creatinine, UO,
   electrolytes.  Evidence for improvement (increasing urine output,
   decline in creatinine).  Continue CVVH as tolerated.  Contined increase
   in urine output since midnight may herald recovery phase.  Maintain
   intravascular repletion.
   ACIDOSIS -- attributed in part to renal failure.  Now on CVVH.  HCO3
   boluses as needed.
   FLUIDS -- intravascular hypovolemia.  Plan continue to replete, monitor
   CVP > 9 cm H2O.
   HYPERNATREMIA
 increased insensible losses.  Provide free H2O.
   Monitor Na+
   INR
 elevated.  Plan FFP, monitor INR.
   SKIN RASH -- desquamation.  Attributed to IL-2.
   RENAL CELL CA -- metastatitc, now receiving IL-2 (last dose [**2124-3-3**]).
   Monitor exam, electrolytes.
   EOSINOPHILIA --  attributed in part to medications, including IL-2.
   NUTRITIONAL SUPPORT  -- Poor PO intake.  Unable to provide TF while
   receiving mask ventilation.  Consider TPN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:56 AM
   Arterial Line - [**2124-3-8**] 08:08 AM
   Dialysis Catheter - [**2124-3-8**] 05:44 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  Extensive famly meeting (90 minutes) updated
   medical conditino and answered all questions.
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2124-03-10 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2124-3-9**] 09:54 AM
 BLOOD CULTURED - At [**2124-3-9**] 11:00 AM
   from CVL
 EKG - At [**2124-3-9**] 11:11 AM
 BLOOD CULTURED - At [**2124-3-9**] 12:20 PM
   from a-line
 SPUTUM CULTURE - At [**2124-3-9**] 12:20 PM
 MULTI LUMEN - START [**2124-3-9**] 07:30 PM
 MULTI LUMEN - STOP [**2124-3-9**] 10:15 PM
   - family meeting -> continue aggressive treatment, assess daily
   - BAL in A.M.
   - cont CVVH, slightly positive by evening, oliguric UOP
   - [**3-6**] GPC bacteremia -> MRSA, subsequent surveillance cxs pending
   - no evidence of overt DIC in evening
   - placed right IJ, removed right subclavian
   - off levo by midnight
   - redosed Abx for CVVH, cont amio gtt, as NGT had high output, not
   giving meds enterally yet
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsPenicillins
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-9**] 10:26 AM
   Cefipime - [**2124-3-9**] 12:16 PM
   Levofloxacin - [**2124-3-10**] 06:24 AM
   Metronidazole - [**2124-3-10**] 07:37 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Phenylephrine - 1.8 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   intubated and sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2124-3-10**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98.1
   HR: 71 (62 - 85) bpm
   BP: 90/43(58) {83/43(57) - 143/74(97)} mmHg
   RR: 22 (22 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 91.6 kg
   Height: 63 Inch
             Total In:
                                                                  5,394 mL
                                                                  1,282 mL
   PO:
             TF:
   IVF:
                                                                  5,394 mL
                                                                  1,282 mL
   Blood products:
   Total out:
                                                                  4,735 mL
                                                                  1,364 mL
   Urine:
                                                                    508 mL
                                                                    179 mL
   NG:
                                                                    400 mL
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                    659 mL
                                                                    -82 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/38/103/21/-1
   Ve: 8.7 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   36 K/uL
   7.7 g/dL
   121 mg/dL
   2.6 mg/dL
   21 mEq/L
   4.3 mEq/L
   41 mg/dL
   112 mEq/L
   141 mEq/L
   24.5 %
   20.7 K/uL
        [image002.jpg]
                             [**2124-3-9**]  04:14 AM
                             [**2124-3-9**]  04:59 AM
                             [**2124-3-9**]  11:58 AM
                             [**2124-3-9**]  12:16 PM
                             [**2124-3-9**]  05:51 PM
                             [**2124-3-9**]  06:05 PM
                             [**2124-3-9**]  11:57 PM
                             [**2124-3-10**]  12:04 AM
                             [**2124-3-10**]  05:27 AM
                             [**2124-3-10**]  05:34 AM
   WBC
   20.7
   Hct
   25.5
   24.6
   24.5
   Plt
   36
   32
   36
   Cr
   4.2
   3.5
   2.6
   TCO2
   26
   22
   24
   24
   24
   23
   Glucose
   152
   140
   134
   121
   Other labs: PT / PTT / INR:21.1/32.2/2.0, CK / CKMB /
   Troponin-T:135/9/0.01, ALT / AST:[**1-20**], Alk Phos / T Bili:128/0.6,
   Amylase / Lipase:14/5, Differential-Neuts:38.0 %, Band:1.0 %,
   Lymph:35.0 %, Mono:8.0 %, Eos:18.0 %, D-dimer:3247 ng/mL,
   Fibrinogen:259 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:206
   IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: pleural fluid:
   Polys Lymphs Monos Eos Macro Other
   [**2124-3-9**] 10:09AM    30* 12* 0 2* 55* 1*
   [**Year (4 digits) 6452**]: [**2124-3-9**] 12:11 pm SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2124-3-9**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN
   Respiratory Viral Antigen Screen (Final [**2124-3-9**]):
         Negative for Respiratory Viral Antigen.
         Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A,
   B,
         and RSV by immunofluorescence.
         Refer to respiratory viral culture for further information
   GRAM STAIN (Final [**2124-3-9**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
      RESPIRATORY CULTURE (Preliminary):
      POTASSIUM HYDROXIDE PREPARATION (Final [**2124-3-9**]):
         PATIENT CREDITED.
         This is a low yield procedure based on our in-house studies if
         pulmonary Histoplasmosis, Coccidioidomycosis, Blastomycosis,
         Aspergillosis or Mucormycosis is strongly suspected, contact the
         [**Name2 (NI) 6452**] Laboratory (7-2306).
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2124-3-9**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      FUNGAL CULTURE (Preliminary):
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
   [**2124-3-8**] 4:22 am STOOL     CONSISTENCY: SOFT      Source: Stool.
      FECAL CULTURE (Final [**2124-3-9**]):    NO SALMONELLA OR SHIGELLA FOUND.
      CAMPYLOBACTER CULTURE (Pending):
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2124-3-8**]):
         Feces negative for C.difficile toxin A & B by EIA.
              (Reference Range-Negative).
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 SHOCK, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, METABOLIC
 HYPERNATREMIA (HIGH SODIUM)
 HYPOXEMIA
 THROMBOCYTOPENIA, ACUTE
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan
   68 yo male with RCC here 3 days s/p IL2 infusion with shock, likely
   septic in etiology, renal failure, and altered mental status.
   .
   #  A. fib with RVR-  likely [**3-14**] volume overload and atrial stretch.
   Other factors to consider include myocardial ischmemia.  Underlying
   sepsis also likely contributing.  Patient received to attempts at DC
   cardioversion, 100 and 150 joules, which were successful and converted
   patient back into NSR, with improving blood pressure.  Patient
   unfortunately converted back into a. fib with RVR within seconds.  Amio
   bolus and drip started.  Now back in NSR.  24 hour IV drip nearly
   completed
   -  will convert to amio 400 PO TID when OG tube placed.
   -  two sets of cardiac markers flat
   -  no new WMAs, no evidence of endocarditis on TTE
   -  will need to consider anti-coagulation in future if chemical
   cardioversion unsuccessful
   -  cont levo, neo, vaso as needed for  MAP > 65; wean levo first if
   able
   #. Shock: hypotension in the setting of IL-2 therapy is common, though
   unusual for it to extend this far past the last dose; therefore,
   concern is for another cause for his hypotension.  Likely etiology is
   septic shock from S. aureus, coag (+).  No evidence of obstructive,
   cardiogenic shock on repeat TTE.  No evidence of adrenal
   insufficiency.  Antibiotic coverage includes health-care associated
   agents.  Fluid status is total body overloaded, but may have been
   intravascularly dry given FeNa 0.7.  Likely has large insensible losses
   through skin.  Lactate trending down.  Given CPSA bacteremia, skin,
   line, and endocarditis are possible sources.  Thromboembolic dz is on
   differential.
   - cont cefepime, flagyl, levoflox, and vanc.  Will dose vanc by trough
   given renal fxn
   - cont levo, neo, and vaso, wean levo if possible for MAP > 65
   - goal CVP 10-12
   - surveillance blood cultures
   -  LENIs and HIT Ab (-)
   -  will likely need to remove right SCL, resite central line
   -  f/u multiple blood/fungal cultures
   .
   #  Coag (+) S. aureus bacteremia- possible source includes skin, line,
   less likely endocarditis.
   -  will f/u cultures, surveillance cultures
   - 10,000-100,000 GNRs in urine, will not treat, repeat U/A with culture
   (-)
   -  cont Abx as above
   .
   #  Hypercapneic Respiratory Failure-  Decreased respiratory drive
   likely [**3-14**] depressed mental status, sedation.  Serial ABGs showed mild
   resp and metabolic acidosis.  Given worsening clinical picture today,
   will electively intubate to facilitate placement of HD line.  Pt now on
   CMV, with mild metabolic acidosis, likely [**3-14**] renal failure, and
   respiratory acidosis.
   -  daily RSBI, trial of weaning
   -  bedside BAL today, f/u cultures
   .
   #. ARF: IL-2 mediated ARF most likely, however prerenal or ischemic ATN
   also possible.  K wnl, phos elevated though stable from last draw.  No
   evidence of obstruction in right collecting system on renal
   ultrasound.   FeNa 0.7.  Does show some UOP response to IVF boluses.
   Lactate improved.  Also on differential is pulm-renal syndrome.
   - follow up Renal recs, appreciate input, cont CVVH, run even today,
   attempt to wean pressors
   - f/u anti-GBM, [**Doctor First Name **], ANCA
   .
   #. Anion Gap Metabolic Acidosis: likely from combination of ARF and
   hypotension, lactic acidosis.  ABG appears pure met acidosis with resp
   acidosis contributing.  Lactate improved.  Remaining acidosis likely
   [**3-14**] ARF.
   - CVVH
   .
   #. Altered Mental Status: Known metastatic disease to brain and IL-2
   can cause swelling.  He is AOx3, though slightly agitated.  Clinical
   picture not c/w meningitis/encephalitis and most likely
   toxic-metabolic.  Patient has signs of uremia on exam.
   - NO LP given intracranial masses
   - CT head unremarkable
   .
   #  Thrombocytopenia/Coagulopathy- no evidence of hemorrhage.
   Thrombocytopenia etiology iatrogenic vs. consumptive.  Increased INR
   could be [**3-14**] poor nutrition, consumption, DIC.  No schistocytes on
   smear.
   -  fibrinogen normal.  Could have low grade DIC in setting of sepsis
   -  will give FFP and platelets to correct coagulopathy, provide colloid
   to intravascular volume, in anticipation for HD line
   -  HIT Ab (-)
   -  d/c
d SC heparin
   .
   #  Hypernatremia- [**3-14**] insensible losses, decreased intake.  Will
   replete with D5W
   .
   #. RCC: finished week 2 of IL-2.  Side effects of IL-2 include
   myocarditis, ectopy, neurotoxicity, tyrombcytopenia, hypocalcemia, and
   hyperbilirubinemia.
   - tele
   - f/u Heme/Onc recs, appreciate input
   - will discuss with Dr. [**Last Name (STitle) 12918**] -> ? steroids
   .
   FEN: CVVH, replete lytes, NPO given mental status
   .
   PPX:
   -DVT ppx with SCDs, cont to hold SC heparin in setting of
   thrombocytopenia
   -Bowel regimen
   -PPI
   -Pain management with morphine/tylenol;  midaz and fent for sedation
   post-extubation
   .
   ACCESS: right subclavian triple lumen, a-line, PIV
   .
   CODE STATUS: Full
   .
   EMERGENCY CONTACT: wife
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-3-8**] 08:08 AM
   Dialysis Catheter - [**2124-3-8**] 05:44 PM
   Multi Lumen - [**2124-3-9**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-10 10:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated mechanically ventilated.
   Remains on vasopressors, but able to wean Levophed to d/c (now on Neo
   and Vasopressin).
   Right SC central line d/c'd and replaced with new Right IJ central
   catheter last PM.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Cefipime - [**2124-3-9**] 12:16 PM
   Levofloxacin - [**2124-3-10**] 06:24 AM
   Metronidazole - [**2124-3-10**] 07:37 AM
   Vancomycin - [**2124-3-10**] 08:09 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Phenylephrine - 1.8 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-3-10**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-3-10**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 62 (62 - 73) bpm
   BP: 112/53(73) {90/43(58) - 143/74(97)} mmHg
   RR: 22 (22 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 91.6 kg
   Height: 63 Inch
             Total In:
                                                                  5,394 mL
                                                                  1,723 mL
   PO:
             TF:
   IVF:
                                                                  5,394 mL
                                                                  1,723 mL
   Blood products:
   Total out:
                                                                  4,735 mL
                                                                  1,799 mL
   Urine:
                                                                    508 mL
                                                                    274 mL
   NG:
                                                                    400 mL
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                    659 mL
                                                                    -76 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/38/103/21/-1
   Ve: 9.3 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: Erythematous, No(t) Jaundice, Desquamation
   resolving; weeping erythema on backside
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.7 g/dL
   36 K/uL
   121 mg/dL
   2.6 mg/dL
   21 mEq/L
   4.3 mEq/L
   41 mg/dL
   112 mEq/L
   141 mEq/L
   24.5 %
   20.7 K/uL
        [image002.jpg]
                             [**2124-3-9**]  04:14 AM
                             [**2124-3-9**]  04:59 AM
                             [**2124-3-9**]  11:58 AM
                             [**2124-3-9**]  12:16 PM
                             [**2124-3-9**]  05:51 PM
                             [**2124-3-9**]  06:05 PM
                             [**2124-3-9**]  11:57 PM
                             [**2124-3-10**]  12:04 AM
                             [**2124-3-10**]  05:27 AM
                             [**2124-3-10**]  05:34 AM
   WBC
   20.7
   Hct
   25.5
   24.6
   24.5
   Plt
   36
   32
   36
   Cr
   4.2
   3.5
   2.6
   TCO2
   26
   22
   24
   24
   24
   23
   Glucose
   152
   140
   134
   121
   Other labs: PT / PTT / INR:21.1/32.2/2.0, CK / CKMB /
   Troponin-T:135/9/0.01, ALT / AST:[**1-20**], Alk Phos / T Bili:128/0.6,
   Amylase / Lipase:14/5, Differential-Neuts:46.0 %, Band:0.0 %,
   Lymph:18.0 %, Mono:3.0 %, Eos:33.0 %, D-dimer:3247 ng/mL,
   Fibrinogen:259 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:206
   IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   68 yom renal cell carcinoma --> metastatic (brain), s/p 2nd week of
   IL-2 completed and now with shock.
   RESPIRATORY FAILURE  -- may in part be due to early pulmonary edema
   (3rd spacing), with contribution of acidosis (metabolic, renal
   failure), and evidence for pneumonitis (neutrophilic infiltrates on
   BAL).  Monitor RR, SaO2, provide supplimental oxygen.  Continue
   mechanical ventilation.  Lung protective strategy.  Monitor ABG.
   HYPOTENSION -- Multifactorial.  Attributed in part to IL-2
   (vasodilatory and 3rd spacing due to vasculare leak), although effect
   apprears somewhat protracted, concern for superimposed sepsis.
   Intermittent A-fib likely contributing to hypotension.  No evidence for
   adrenal insufficiency.  Consider pulmonary embolism --> plan check LE
   NIVS, check cardiac echo to assess RV function .   With concern for
   sepsis (with specific concerns including skin infection,LLL pneumonia,
   line-related infection), remains on Vanco, Cefopime, Levofloxicin.
   Maintain MAP > 60 mmHg.  Vasopressors as needed.
   A-FIB -- Reverted to NSR on Amioderone.  Bilateral atrial enlargement.
   Precipitant likely context of sepsis, bacteremia, IL-2 syndrome
   "cytokine storm."  Plan continue Amioderone.  Replete electrolytes.
   Anticoagulation would be desired --> need to discuss with primary team,
   as potential use of anticoagulation complicated and high risk  for
   bleeding.  Hopefully will not need long-term rate control [**Doctor Last Name **].
   PULMONARY INFILTRATES -- Chest CT with evidence of diffuse, patchy,
   focal infiltrates, many peripheral.  [**Month (only) 51**] be atypical pattern for
   fluid/pulmonary edema.  Concerns for possible infection, and nodular
   infiltrates raise possibility of embolic events (right sided
   endocarditis) or fungal pneumonia.  Also consider pulmonary renal
   syndrome (ex. anti-GBM Ab, Wegener's).  Check sputum, serum b-glucan
   and galactomannan.  Monitor exam and CXR, plan bronchoscopy to assess
   for respiratory process/infection (cultures, stains, cell count, etc).
   SEPSIS -- attributed in part to IL-2, but now with evidence for
   infections (bacteremia, urine source), and concerns for possible lung
   infection.  Plan continue support, including broad spectrum
   antimicrobials.
   THROMBOCYTOPENIA -- progressive.  No evidence for HIT.  Concerns
   include DIC, medication effect, or possible TTP.  Monitor plts count.
   ALTERED MENTAL STATUS -- multifactorial, including uremia, medications
   (benzodiazepines), evolving hypernatremia, reversal of sleep-wake
   cycle.  Currently sedated.
   BACTEREMIA -- S. aureus, possible line-related or skin-related.  Plan
   continue Vancomycin.  Cardiac echo without evidence for valvular
   abnormalities.
   ACUTE RENAL FAILURE -- multifactorial, attributed to IL-2, hypovolemia,
   possible ATN, single kidney.  Monitor BUN, creatinine, UO,
   electrolytes.  Evidence for improvement (increasing urine output,
   decline in creatinine).  Continue CVVH as tolerated.  Contined increase
   in urine output since midnight may herald recovery phase.  Maintain
   intravascular repletion.
   ACIDOSIS -- attributed in part to renal failure.  Now on CVVH.  HCO3
   boluses as needed.
   FLUIDS -- intravascular hypovolemia improved.  Plan maintain balance
   while on vasopressor, monitor CVP > 9 cm H2O.  Eventually will desire
   net diuresis.
   HYPERNATREMIA
 increased insensible losses.  Provide free H2O.
   Monitor Na+
   INR
 elevated.  Plan FFP, monitor INR.
   SKIN RASH -- desquamation.  Attributed to IL-2.
   CYANOSIS
 toes improved.  Fingers persist.
   RENAL CELL CA -- metastatitc, now receiving IL-2 (last dose [**2124-3-3**]).
   Monitor exam, electrolytes.
   EOSINOPHILIA --  attributed in part to medications, including IL-2.
   NUTRITIONAL SUPPORT  -- Poor PO intake.  Unable to provide TF while
   receiving mask ventilation.  Consider TPN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-3-8**] 08:08 AM
   Dialysis Catheter - [**2124-3-8**] 05:44 PM
   Multi Lumen - [**2124-3-9**] 07:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  Updated medical condition during family
   meeting.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-03-11 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - No Eo's in urine
   - Family meeting
   - only on two pressors
   - pulled back RIJ
   - GPC's in his blood, BAL
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-10**] 08:09 AM
   Cefipime - [**2124-3-11**] 12:00 AM
   Metronidazole - [**2124-3-11**] 12:00 AM
   Levofloxacin - [**2124-3-11**] 05:01 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Amiodarone - 0.5 mg/min
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-3-10**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-11**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 62 (57 - 71) bpm
   BP: 115/60(80) {90/43(58) - 135/70(94)} mmHg
   RR: 22 (20 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.3 kg (admission): 91.6 kg
   Height: 63 Inch
             Total In:
                                                                  5,043 mL
                                                                  2,254 mL
   PO:
             TF:
                                                                     80 mL
                                                                     47 mL
   IVF:
                                                                  4,913 mL
                                                                  2,157 mL
   Blood products:
   Total out:
                                                                  5,319 mL
                                                                  2,259 mL
   Urine:
                                                                    554 mL
                                                                    100 mL
   NG:
                                                                    210 mL
                                                                    260 mL
   Stool:
   Drains:
   Balance:
                                                                   -276 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/32/134/21/-1
   Ve: 9.5 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   40 K/uL
   7.8 g/dL
   140 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.3 mEq/L
   28 mg/dL
   114 mEq/L
   142 mEq/L
   24.1 %
   18.3 K/uL
        [image002.jpg]
                             [**2124-3-10**]  05:27 AM
                             [**2124-3-10**]  05:34 AM
                             [**2124-3-10**]  12:30 PM
                             [**2124-3-10**]  12:39 PM
                             [**2124-3-10**]  05:44 PM
                             [**2124-3-10**]  06:28 PM
                             [**2124-3-10**]  11:19 PM
                             [**2124-3-10**]  11:32 PM
                             [**2124-3-11**]  05:09 AM
                             [**2124-3-11**]  05:44 AM
   WBC
   20.7
   18.3
   Hct
   24.5
   25.3
   24.1
   Plt
   36
   40
   Cr
   2.6
   2.2
   1.7
   TCO2
   23
   22
   22
   22
   22
   Glucose
   121
   128
   132
   140
   Other labs: PT / PTT / INR:21.1/32.2/2.0, CK / CKMB /
   Troponin-T:135/9/0.01, ALT / AST:[**1-20**], Alk Phos / T Bili:128/0.6,
   Amylase / Lipase:14/5, Differential-Neuts:46.0 %, Band:0.0 %,
   Lymph:18.0 %, Mono:3.0 %, Eos:33.0 %, D-dimer:3247 ng/mL,
   Fibrinogen:259 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:206
   IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   68 yo male with RCC here 3 days s/p IL2 infusion with shock, likely
   septic in etiology, renal failure, and altered mental status.
   .
   #. Shock: Likely etiology is septic shock from MRSA exacerbated by
   distributive physiology from IL-2, though now with GPC
s in pairs and
   chains and GPC
s in pairs on BAL despite, cefepime, flagyl, levoflox,
   and vanc there is good reason to be concerned about VRE versus Vanco
   faillure MRSA.  No evidence of obstructive, cardiogenic shock on repeat
   TTE.  No evidence of adrenal insufficiency.  Antibiotic coverage
   includes health-care associated agents.  Fluid status is total body
   overloaded, but may have been intravascularly dry given FeNa 0.7.
   Likely has large insensible losses through skin.  Lactate trending
   down.  Given CPSA bacteremia, skin, line, and endocarditis are possible
   sources.  Thromboembolic dz is on differential.
   - cont cefepime, flagyl, levoflox, and vanc, dosed for CVVH
   - cont neo and vaso, wean neo if possible for MAP > 65, CVP 10-12
   - surveillance blood cultures
   -  LENIs and HIT Ab (-)
   -  right SCL line removed, right IJ placed
   -  f/u multiple blood/fungal cultures, and BAL cultures
   -  would not advance abx unless clinically worsening
   .
   #  A. fib with RVR-  likely [**3-14**] volume overload and atrial stretch.
   Other factors to consider include myocardial ischmemia.  Underlying
   sepsis also likely contributing.  Patient received to attempts at DC
   cardioversion, 100 and 150 joules, which were successful and converted
   patient back into NSR, with improving blood pressure.  Patient
   unfortunately converted back into a. fib with RVR within seconds.  Amio
   bolus and drip started.  Now back in NSR.
   -  will cont amio gtt to complete full amio load, defer PO amio
   -  two sets of cardiac markers flat
   -  no new WMAs, no evidence of endocarditis on TTE
   -  will need to consider anti-coagulation in future if chemical
   cardioversion unsuccessful
     .
   #  Persistent GPC bacteremia- possible source includes skin, line, less
   likely endocarditis.  [**Month (only) 51**] represent vancomycin faillure of MRSA
   treatment versus VRE
   -  will f/u cultures, surveillance cultures
   -  Consider switch to linezolide if worsening
   .
   #  Hypercapneic Respiratory Failure-  Decreased respiratory drive
   likely [**3-14**] depressed mental status, sedation.  Serial ABGs showed mild
   resp and metabolic acidosis.  Plan per team had been to leave him on
   these settings, keep him sedated and when and if his shock is resolved
   to wean him and attempt to extubate.  At the moment there is medical
   need for sedation because his CVVH stops with even the slightest
   motion.
   .
   #. ARF: IL-2 mediated ARF most likely, however prerenal or ischemic ATN
   also possible.  No evidence of obstruction in right collecting system
   on renal ultrasound.   FeNa 0.7.  Does show some UOP response to IVF
   boluses.  Lactate improved.  Also on differential is pulm-renal
   syndrome.
   - follow up Renal recs, appreciate input, cont CVVH, run even today,
   attempt to cont to wean pressors
   - anti-GBM, [**Doctor First Name **], ANCA all (-)
   - would start to run negative tomorrw
   .
   #  Thrombocytopenia/Coagulopathy- no evidence of hemorrhage.
   Thrombocytopenia etiology iatrogenic vs. consumptive.  Increased INR
   could be [**3-14**] poor nutrition, consumption, DIC.  No schistocytes on
   smear.
   -  fibrinogen normal.  Could have low grade DIC in setting of sepsis
   -  will give FFP and platelets to correct coagulopathy, provide colloid
   to intravascular volume,
   -  HIT Ab (-)
   -  d/c
d SC heparin
   .
   #. RCC: finished week 2 of IL-2.  Side effects of IL-2 include
   myocarditis, ectopy, neurotoxicity, tyrombcytopenia, hypocalcemia, and
   hyperbilirubinemia.
   - tele
   - f/u Heme/Onc recs, appreciate input
   - will discuss with Dr. [**Last Name (STitle) 12918**] -> ? steroids given persistent
   eosinophilia
   .
   FEN: CVVH, replete lytes, will start TFs
   .
   PPX:
   -DVT ppx with SCDs, cont to hold SC heparin in setting of
   thrombocytopenia
   -Bowel regimen
   -PPI
   -Pain management with morphine/tylenol;  midaz and fent for sedation
   post-extubation
   .
   ACCESS: right IJ triple lumen, a-line, PIV, left HD line -> will pull
   back right IJ 2-3 cm, and advance ET tube 1 cm
   .
   CODE STATUS: Full
   .
   EMERGENCY CONTACT: wife
   .
   DISPOSITION: ICU
   ICU Care
 see above
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-3-8**] 08:08 AM
   Dialysis Catheter - [**2124-3-8**] 05:44 PM
   Multi Lumen - [**2124-3-9**] 07:30 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-11 09:21:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2124-3-11**] 05:43 AM
   Growing GPC, pairs and chains on blood culutre
   Right IJ pulled back
   Continues on vasopressin
                                Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Cefipime - [**2124-3-11**] 12:00 AM
   Levofloxacin - [**2124-3-11**] 05:01 AM
   Vancomycin - [**2124-3-11**] 07:44 AM
   Metronidazole - [**2124-3-11**] 09:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Amiodarone - 0.5 mg/min
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2124-3-11**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 63 (57 - 70) bpm
   BP: 114/59(77) {98/50(65) - 135/70(94)} mmHg
   RR: 22 (20 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.3 kg (admission): 91.6 kg
   Height: 63 Inch
             Total In:
                                                                  5,043 mL
                                                                  3,274 mL
   PO:
             TF:
                                                                     80 mL
                                                                     47 mL
   IVF:
                                                                  4,913 mL
                                                                  3,177 mL
   Blood products:
   Total out:
                                                                  5,319 mL
                                                                  2,863 mL
   Urine:
                                                                    554 mL
                                                                    175 mL
   NG:
                                                                    210 mL
                                                                    260 mL
   Stool:
   Drains:
   Balance:
                                                                   -276 mL
                                                                    411 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/32/134/21/-1
   Ve: 8.9 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered anteriorly)
   Abdominal: Soft, Distended
   Extremities: 3+ anasarca
   Skin:  Not assessed, Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   40 K/uL
   136 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.1 mEq/L
   25 mg/dL
   111 mEq/L
   139 mEq/L
   24.1 %
   18.3 K/uL
        [image002.jpg]
                             [**2124-3-10**]  05:27 AM
                             [**2124-3-10**]  05:34 AM
                             [**2124-3-10**]  12:30 PM
                             [**2124-3-10**]  12:39 PM
                             [**2124-3-10**]  05:44 PM
                             [**2124-3-10**]  06:28 PM
                             [**2124-3-10**]  11:19 PM
                             [**2124-3-10**]  11:32 PM
                             [**2124-3-11**]  05:09 AM
                             [**2124-3-11**]  05:44 AM
   WBC
   20.7
   18.3
   Hct
   24.5
   25.3
   24.1
   Plt
   36
   40
   Cr
   2.6
   2.2
   1.7
   1.5
   TCO2
   23
   22
   22
   22
   22
   Glucose
   121
   128
   132
   140
   136
   Other labs: PT / PTT / INR:19.5/29.2/1.8, CK / CKMB /
   Troponin-T:135/9/0.01, ALT / AST:[**1-20**], Alk Phos / T Bili:128/0.6,
   Amylase / Lipase:14/5, Differential-Neuts:46.0 %, Band:0.0 %,
   Lymph:18.0 %, Mono:3.0 %, Eos:33.0 %, D-dimer:3247 ng/mL,
   Fibrinogen:259 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:206
   IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR:  RIJ in good position, ETT in good position.
   Infiltrates/effusions unchanged
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Fluid overload persists
   albet unable to start diuresis as discussed below.  Appears comfortable
   on current sedation.
 ATRIAL FIBRILLATION (AFIB):
 SHOCK, SEPTIC:  WBC decreased.  Redose vancomycin. Continues on
   vasopressin, neo weaned off.  Has GPC in blood culture albeit in
   pairs/chains - may be a contaminant since other signs suggest
   improvement (decreased leukocytosis, weaning off pressors).  Will
   follow up on final ID on GPC.  Continue current antibiotics.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Continues CRT, goal
   to keep I/Os even until off vasopressin, then hopefully will be able to
   start to diurese given he is very total body fluid overloaded.
 ACIDOSIS, METABOLIC
 HYPERNATREMIA (HIGH SODIUM):
 ALTERATION IN NUTRITION:
 THROMBOCYTOPENIA, ACUTE:  HITT negative. Platelets stable.  Hct down
   albeit significantly positive fluid status.  Repeat this afternoon to
   be sure not continuing to trend down. No signs of active bleeding.
 ALTERED MENTAL STATUS (NOT DELIRIUM):
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-3-8**] 08:08 AM
   Dialysis Catheter - [**2124-3-8**] 05:44 PM
   Multi Lumen - [**2124-3-9**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   `

2124-03-12 07:39:00 Physician Resident Progress Note
Chief Complaint: shock, renal failure
   24 Hour Events:
 BLOOD CULTURED - At [**2124-3-11**] 10:24 AM
   - off vasopressin, started removing 50cc/hr UF
   - enterococcus growing in blood from [**3-10**], gave 1 dose linezolid
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-11**] 07:44 AM
   Linezolid - [**2124-3-11**] 11:03 PM
   Cefipime - [**2124-3-12**] 12:00 AM
   Metronidazole - [**2124-3-12**] 01:40 AM
   Levofloxacin - [**2124-3-12**] 05:56 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-3-11**] 09:43 AM
   Other medications:
   Changes to medical and family history:
   intubated and sedated, tries to open eyes to name, doesn't follow
   commands
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2124-3-12**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 73 (63 - 73) bpm
   BP: 123/55(77) {96/48(63) - 138/63(89)} mmHg
   RR: 17 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.3 kg (admission): 91.6 kg
   Height: 63 Inch
             Total In:
                                                                  7,903 mL
                                                                  2,227 mL
   PO:
             TF:
                                                                     47 mL
   IVF:
                                                                  7,806 mL
                                                                  2,227 mL
   Blood products:
   Total out:
                                                                  8,189 mL
                                                                  2,640 mL
   Urine:
                                                                    518 mL
                                                                    229 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                   -286 mL
                                                                   -413 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.48/32/103/23/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, quiet BS
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, cyanosis improving
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   55 K/uL
   7.8 g/dL
   99 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.3 mEq/L
   16 mg/dL
   110 mEq/L
   139 mEq/L
   23.6 %
   14.2 K/uL
        [image002.jpg]
                             [**2124-3-11**]  11:50 AM
                             [**2124-3-11**]  12:01 PM
                             [**2124-3-11**]  03:00 PM
                             [**2124-3-11**]  03:18 PM
                             [**2124-3-11**]  05:49 PM
                             [**2124-3-11**]  06:13 PM
                             [**2124-3-12**]  12:06 AM
                             [**2124-3-12**]  12:47 AM
                             [**2124-3-12**]  04:53 AM
                             [**2124-3-12**]  05:15 AM
   WBC
   13.7
   14.2
   Hct
   22.7
   23.6
   Plt
   41
   55
   Cr
   1.3
   1.3
   1.2
   1.1
   TCO2
   24
   25
   23
   23
   25
   Glucose
   141
   137
   123
   122
   99
   Other labs: PT / PTT / INR:19.5/29.2/1.8, CK / CKMB /
   Troponin-T:135/9/0.01, ALT / AST:[**1-20**], Alk Phos / T Bili:128/0.6,
   Amylase / Lipase:14/5, Differential-Neuts:46.0 %, Band:0.0 %,
   Lymph:18.0 %, Mono:3.0 %, Eos:33.0 %, D-dimer:3247 ng/mL,
   Fibrinogen:259 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:206
   IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Microbiology: [**2124-3-10**] 5:27 am BLOOD CULTURE      Source: Line-a.
      Blood Culture, Routine (Preliminary):
         PROBABLE ENTEROCOCCUS.    DEFINITIVE IDENTIFICATION TO FOLLOW.
      Anaerobic Bottle Gram Stain (Final [**2124-3-10**]):
         REPORTED BY PHONE TO [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 12960**] @ 10PM [**2124-3-10**].
         GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
   [**3-11**], [**3-12**] blood cx pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 SHOCK, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, METABOLIC
 HYPERNATREMIA (HIGH SODIUM)
 ALTERATION IN NUTRITION
 THROMBOCYTOPENIA, ACUTE
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
   68 yo male with RCC here 3 days s/p IL2 infusion with shock, likely
   septic in etiology, renal failure, and altered mental status.
   .
   #. Shock: Likely etiology is septic shock from MRSA exacerbated by
   distributive physiology from IL-2, though now with GPC
s in pairs and
   chains and GPC
s in pairs on BAL despite, cefepime, flagyl, levoflox,
   and vanc there is good reason to be concerned about VRE versus Vanco
   faillure MRSA.  [**3-10**] blood cx now grew Enterococcus.  No evidence of
   obstructive, cardiogenic shock on repeat TTE.  No evidence of adrenal
   insufficiency.  Antibiotic coverage includes health-care associated
   agents.  Fluid status is total body overloaded, but may have been
   intravascularly dry last week given FeNa 0.7 prior to CVVH.  Likely has
   large insensible losses through skin.  Lactate trending down.  Given
   CPSA and Enterococcus bacteremia, skin, line, and GI tract are possible
   sources.  Thromboembolic dz is on differential.
   - cont cefepime, flagyl, levoflox, and vanc, dosed for CVVH, today day
   [**8-19**]
   - will cont linezolid until speciation of Enterococcus
   -  weaned off pressors
   -  surveillance blood cultures
   -  LENIs and HIT Ab (-)
   -  f/u multiple blood/fungal cultures, and BAL cultures
   - will resite a-line
   .
   #  A. fib with RVR-  likely [**3-14**] volume overload and atrial stretch.
   Other factors to consider include myocardial ischmemia.  Underlying
   sepsis also likely contributing.  Patient received to attempts at DC
   cardioversion, 100 and 150 joules, which were successful and converted
   patient back into NSR, with improving blood pressure.  Patient
   unfortunately converted back into a. fib with RVR within seconds.  Amio
   bolus and drip started.  Now back in NSR.
   -  will cont amio gtt to complete full amio load, defer PO amio
   -  two sets of cardiac markers flat
   -  no new WMAs, no evidence of endocarditis on TTE
   -  will need to consider anti-coagulation in future if chemical
   cardioversion unsuccessful
     .
   #  MRSA bacteremia, now with Enterococcus bacteremia- possible source
   includes skin, line, less likely endocarditis.  [**Month (only) 51**] represent
   vancomycin faillure of MRSA treatment versus VRE given Enterococcus
   -  will f/u cultures, surveillance cultures
   -  will cont Linezolid until speciation
   .
   #  Hypercapneic Respiratory Failure-  Decreased respiratory drive
   likely [**3-14**] depressed mental status, sedation.  Serial ABGs showed mild
   resp and metabolic acidosis.  Plan per team had been to leave him on
   these settings, keep him sedated and when and if his shock is resolved
   to wean him and attempt to extubate.  At the moment there is medical
   need for sedation because his CVVH stops with even the slightest
   motion.
   - resp alkalosis, will monitor with serial ABGs
   - daily lifting of sedation if tolerable from CVVH standpoint
   .
   #. ARF: IL-2 mediated ARF most likely, however prerenal or ischemic ATN
   also possible.  No evidence of obstruction in right collecting system
   on renal ultrasound.   FeNa 0.7.  Does show some UOP response to IVF
   boluses.  Lactate improved.  Also on differential is pulm-renal
   syndrome.
   - follow up Renal recs, appreciate input, cont CVVH, attempt to run (-)
   today 1-2 liters
   - anti-GBM, [**Doctor First Name **], ANCA all (-)
   - PM lytes, cont to have ~500 cc UOP daily
   .
   #  Thrombocytopenia/Coagulopathy- no evidence of hemorrhage.
   Thrombocytopenia etiology iatrogenic vs. consumptive.  Increased INR
   could be [**3-14**] poor nutrition, consumption, DIC.  No schistocytes on
   smear.
   -  fibrinogen normal.  Could have low grade DIC in setting of sepsis
   -  will give FFP and platelets to correct coagulopathy if coags worsen
   -  HIT Ab (-)
   -  d/c
d SC heparin
   -  daily coags
   .
   #. RCC: finished week 2 of IL-2.  Side effects of IL-2 include
   myocarditis, ectopy, neurotoxicity, tyrombcytopenia, hypocalcemia, and
   hyperbilirubinemia.
   - tele
   - f/u Heme/Onc recs, appreciate input
   - will discuss with Dr. [**Last Name (STitle) 12918**] -> ? steroids given persistent
   eosinophilia, will check diff today
   .
   FEN: CVVH, replete lytes, will start TFs
   .
   PPX:
   -DVT ppx with SCDs, cont to hold SC heparin in setting of
   thrombocytopenia
   -Bowel regimen
   -PPI
   -Pain management with morphine/tylenol;  midaz and fent for sedation
   post-extubation
   .
   ACCESS: right IJ triple lumen, a-line, PIV, left IJ HD line
   .
   CODE STATUS: Full
   .
   EMERGENCY CONTACT: wife
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-3-8**] 08:08 AM
   Dialysis Catheter - [**2124-3-8**] 05:44 PM
   Multi Lumen - [**2124-3-9**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-12 09:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2124-3-11**] 10:24 AM
   Blood culture from a-line drawn on [**3-10**] growing probable enterococcus,
   started on linexolid
   Off pressors since 4 pm yesterday
   Able to tolerate volume removal with CVVH
   Suctioned for only small white thick secretions via ETT
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-11**] 07:44 AM
   Linezolid - [**2124-3-11**] 11:03 PM
   Cefipime - [**2124-3-12**] 12:00 AM
   Levofloxacin - [**2124-3-12**] 05:56 AM
   Metronidazole - [**2124-3-12**] 08:17 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-3-11**] 09:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-3-12**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 72 (66 - 73) bpm
   BP: 105/48(64) {96/48(63) - 138/63(89)} mmHg
   RR: 20 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117 kg (admission): 91.6 kg
   Height: 63 Inch
             Total In:
                                                                  7,903 mL
                                                                  2,868 mL
   PO:
             TF:
                                                                     47 mL
   IVF:
                                                                  7,806 mL
                                                                  2,868 mL
   Blood products:
   Total out:
                                                                  8,189 mL
                                                                  3,010 mL
   Urine:
                                                                    518 mL
                                                                    264 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                   -286 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.48/32/103/23/0
   Ve: 8 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Abdominal: Soft
   Extremities: anasarca
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, moves spontaneously
   Labs / Radiology
   7.8 g/dL
   55 K/uL
   99 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.3 mEq/L
   16 mg/dL
   110 mEq/L
   139 mEq/L
   23.6 %
   14.2 K/uL
        [image002.jpg]
                             [**2124-3-11**]  11:50 AM
                             [**2124-3-11**]  12:01 PM
                             [**2124-3-11**]  03:00 PM
                             [**2124-3-11**]  03:18 PM
                             [**2124-3-11**]  05:49 PM
                             [**2124-3-11**]  06:13 PM
                             [**2124-3-12**]  12:06 AM
                             [**2124-3-12**]  12:47 AM
                             [**2124-3-12**]  04:53 AM
                             [**2124-3-12**]  05:15 AM
   WBC
   13.7
   14.2
   Hct
   22.7
   23.6
   Plt
   41
   55
   Cr
   1.3
   1.3
   1.2
   1.1
   TCO2
   24
   25
   23
   23
   25
   Glucose
   141
   137
   123
   122
   99
   Other labs: PT / PTT / INR:19.5/29.2/1.8, CK / CKMB /
   Troponin-T:135/9/0.01, ALT / AST:[**1-20**], Alk Phos / T Bili:128/0.6,
   Amylase / Lipase:14/5, Differential-Neuts:46.0 %, Band:0.0 %,
   Lymph:18.0 %, Mono:3.0 %, Eos:33.0 %, D-dimer:3247 ng/mL,
   Fibrinogen:259 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:206
   IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Will benefit from volume
   overload, now starting to take fluid off with CVVH.  Secretions are
   minimal, completing course of cefipime for VAP.
 ATRIAL FIBRILLATION (AFIB):  Continues on amiodarone infusion, unable
   to switch to oral given high residuals.
 SHOCK, OTHER:  Secondary to sepsis and possibly IL2 therapy.  Now off
   pressors since 4 pm yesterday.
 BACTEREMIA, ENTEROCOCCUS:  Started on linezolid.  Able to tolerate
   stopping pressors.  A-line needs to be replaced.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Slightly negative
   overnight with volume removal with CVVH.  Dosing meds accordingly.
 HYPERNATREMIA (HIGH SODIUM):  Improving with free water replacement.
 ALTERATION IN NUTRITION:  Had high residuals yesterday, tube feeds on
   hold.
 THROMBOCYTOPENIA, ACUTE:  Platlet count stable.
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-3-8**] 08:08 AM
   Dialysis Catheter - [**2124-3-8**] 05:44 PM
   Multi Lumen - [**2124-3-9**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2124-03-13 07:05:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
 ARTERIAL LINE - STOP [**2124-3-12**] 08:39 AM
 ARTERIAL LINE - START [**2124-3-12**] 03:23 PM
   - cont CVVH
   - resited left a-line, sent right a-line for culture
   - updated family at 3:30 p.m. (designated time)
   - GPCs [**2124-3-10**] -> VRE, cont linezolid
   - high residuals on TFs -> tried reglan
   - ID recs -> suggested pulling off cefepime and cipro given (-) BAL,
   deferred until rounds; also suggested C. diff cxs, if (-) x 3, d/c
   flagyl; if (+), PO vanc; two week Abx course for MRSA and VRE bactermia
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-11**] 07:44 AM
   Cefipime - [**2124-3-12**] 10:30 PM
   Linezolid - [**2124-3-12**] 10:54 PM
   Metronidazole - [**2124-3-13**] 12:00 AM
   Levofloxacin - [**2124-3-13**] 05:52 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   sedated, intubated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2124-3-13**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 69 (65 - 82) bpm
   BP: 127/70(89) {97/47(62) - 160/81(108)} mmHg
   RR: 20 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.7 kg (admission): 91.6 kg
   Height: 63 Inch
             Total In:
                                                                  6,737 mL
                                                                  1,743 mL
   PO:
             TF:
   IVF:
                                                                  6,737 mL
                                                                  1,743 mL
   Blood products:
   Total out:
                                                                 10,524 mL
                                                                  3,254 mL
   Urine:
                                                                    569 mL
                                                                    120 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,787 mL
                                                                 -1,511 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 101
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   Compliance: 56.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/36/104/22/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, quiet BS
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, cyanosis improving
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   69 K/uL
   8.3 g/dL
   110 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.4 mEq/L
   14 mg/dL
   109 mEq/L
   136 mEq/L
   25.7 %
   15.4 K/uL
        [image002.jpg]
                             [**2124-3-12**]  05:15 AM
                             [**2124-3-12**]  12:32 PM
                             [**2124-3-12**]  12:55 PM
                             [**2124-3-12**]  04:51 PM
                             [**2124-3-12**]  04:56 PM
                             [**2124-3-12**]  05:51 PM
                             [**2124-3-12**]  11:02 PM
                             [**2124-3-12**]  11:15 PM
                             [**2124-3-13**]  04:28 AM
                             [**2124-3-13**]  04:48 AM
   WBC
   13.8
   15.4
   Hct
   22.7
   25.7
   Plt
   54
   69
   Cr
   1.1
   1.0
   1.0
   TCO2
   25
   26
   25
   19
   25
   Glucose
   107
   112
   123
   110
   Other labs: PT / PTT / INR:18.9/27.6/1.7, CK / CKMB /
   Troponin-T:135/9/0.01, ALT / AST:[**1-20**], Alk Phos / T Bili:128/0.6,
   Amylase / Lipase:14/5, Differential-Neuts:63.0 %, Band:0.0 %,
   Lymph:16.0 %, Mono:5.0 %, Eos:14.0 %, D-dimer:3247 ng/mL,
   Fibrinogen:259 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:206
   IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR [**3-12**]
   Blood cultures from [**Date range (1) 12970**] are pending
   Cath tip culture pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 SHOCK, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, METABOLIC
 HYPERNATREMIA (HIGH SODIUM)
 ALTERATION IN NUTRITION
 THROMBOCYTOPENIA, ACUTE
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
   68 yo male with RCC presenting 3 days s/p IL2 infusion with shock,
   renal failure and altered mental status now with blood cultures
   positive for VRE and MRSA.
   .
   #  BACTEREMIA: MRSA and VRE. Likely [**3-14**] skin breakdown and/or line
   infection and VRE perhas GI, also possibly endocarditis but less
   likely.
   -continue linezolid
   -consider narrowing coverage for PNA
   -stool cultures for cdiff, continue metronidazole until neg x3
   -surveilllance cultures
   -will need to change HD and CV lines when cultures negative and
   consider changing sooner if persistantly positive
   -TEE if bacteremia persists
   #. Shock: Likely etiology is septic shock from MRSA/VRE exacerbated by
   distributive physiology from IL-2,.  No evidence of obstructive,
   cardiogenic shock on repeat TTE.  No evidence of adrenal
   insufficiency.  Antibiotic coverage includes health-care associated
   agents.  Fluid status is total body overloaded, but may have been
   intravascularly dry last week given FeNa 0.7 prior to CVVH.  Likely has
   large insensible losses through skin.  Lactate trending down.  Given
   CPSA and Enterococcus bacteremia, skin, line, and GI tract are possible
   sources.  Thromboembolic dz is on differential.
   - cont cefepime, flagyl, levoflox, and vanc, dosed for CVVH, today day
   [**9-19**]
   - will cont linezolid until speciation of Enterococcus
   -  weaned off pressors
   -  surveillance blood cultures
   -  LENIs and HIT Ab (-)
   -  f/u multiple blood/fungal cultures, and BAL cultures
   -  resited a-line
   .
   #  A. fib with RVR-  Now in NSR on amiodarone drip.
   likely [**3-14**] volume overload and atrial stretch.  Other factors to
   consider include myocardial ischmemia.  Underlying sepsis also likely
   contributing.  Patient received to attempts at DC cardioversion, 100
   and 150 joules, which were successful and converted patient back into
   NSR, with improving blood pressure.  Patient unfortunately converted
   back into a. fib with RVR within seconds..
   -  will cont amio gtt to complete full amio load, defer PO amio
   -  ruled out for MI with flat CEs x3 two
   -  no new WMAs, no evidence of endocarditis on TTE
   -  will need to consider anti-coagulation in future if chemical
   cardioversion unsuccessful
   .
   #  Hypercapneic Respiratory Failure-  Decreased respiratory drive
   likely [**3-14**] depressed mental status, sedation.  Serial ABGs showed mild
   resp and metabolic acidosis.  Plan per team had been to leave him on
   these settings, keep him sedated and when and if his shock is resolved
   to wean him and attempt to extubate.  At the moment there is medical
   need for sedation because his CVVH stops with even the slightest
   motion.
   - resp alkalosis now resolved, will monitor with serial ABGs
   - daily lifting of sedation if tolerable from CVVH standpoint
   .
   #. ARF: most likely [**3-14**] ATN from hypoperfusion vs IL-2 mediated ARF.
   anti-GBM, [**Doctor First Name **], ANCA all (-). UOP improving
   - appreciate renal recs
   - cont CVVH, goal is (-) 3-4 liters/day as long as SBP >100
   - PM lytes
   .
   #  Thrombocytopenia/Coagulopathy- no evidence of hemorrhage.
   Thrombocytopenia etiology iatrogenic vs. consumptive.  Increased INR
   could be [**3-14**] poor nutrition, consumption, DIC.  No schistocytes on
   smear.
   -  fibrinogen normal.  Could have low grade DIC in setting of sepsis
   -  will give FFP and platelets to correct coagulopathy if coags worsen
   -  HIT Ab (-)
   -  d/c
d SC heparin
   -  daily coags
   .
   #. RCC: finished week 2 of IL-2.  Side effects of IL-2 include
   myocarditis, ectopy, neurotoxicity, tyrombcytopenia, hypocalcemia, and
   hyperbilirubinemia.
   - tele
   - f/u Heme/Onc recs, appreciate input
   - will discuss with Dr. [**Last Name (STitle) 12918**] -> ? steroids given persistent
   eosinophilia, will check diff today
   .
   FEN: CVVH, replete lytes, will start TFs
   .
   PPX:
   -DVT ppx with SCDs, cont to hold SC heparin in setting of
   thrombocytopenia
   -Bowel regimen
   -PPI
   -Pain management with morphine/tylenol;  midaz and fent for sedation
   post-extubation
   .
   ACCESS: right IJ triple lumen, a-line, PIV, left IJ HD line
   .
   CODE STATUS: Full
   .
   EMERGENCY CONTACT: wife
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2124-3-8**] 05:44 PM
   Multi Lumen - [**2124-3-9**] 07:30 PM
   Arterial Line - [**2124-3-12**] 03:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-16 07:31:00 Physician Resident Progress Note
Chief Complaint: shock/bacteremia
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-3-15**] 10:35 AM
   -transfused 1 unit pRBCS for hct 19, repeat hct 25, hct 21.6 this am,
   ordered for another unit
   -neg hapto
   -guaic trace positive
   -extubated
   -s/s deferred pt not awake enough, npo for now
   -dialysis line not pulled, out likely tomorrow if all goes well
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsPenicillins
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Metronidazole - [**2124-3-15**] 12:02 AM
   Linezolid - [**2124-3-15**] 10:11 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-3-15**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2124-3-15**] 10:00 PM
   Morphine Sulfate - [**2124-3-16**] 04:10 AM
   Other medications:
   Changes to medical and family history:
   This morning complains of pain in fingers.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: Foley, Dialysis
   Musculoskeletal: hands hurt
   Pain: [**6-15**] Moderate
   Pain location: hands
   Flowsheet Data as of  [**2124-3-16**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 73 (62 - 83) bpm
   BP: 159/73(102) {113/64(86) - 177/142(150)} mmHg
   RR: 20 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110 kg (admission): 91.6 kg
   Height: 63 Inch
             Total In:
                                                                  5,200 mL
                                                                    165 mL
   PO:
             TF:
   IVF:
                                                                  4,920 mL
                                                                    165 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  7,726 mL
                                                                    420 mL
   Urine:
                                                                  1,410 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,526 mL
                                                                   -255 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.45/37/99.[**Numeric Identifier 126**]/23/1
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, fingertip ischemia
   Skin:  Warm, Rash: desquamative, improving
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to):
   year, city, month, Movement: Purposeful, Tone: Not assessed, able to
   say days of week forward and backwards
   Labs / Radiology
   193 K/uL
   7.3 g/dL
   87 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.3 mEq/L
   12 mg/dL
   109 mEq/L
   141 mEq/L
   21.6 %
   9.1 K/uL
        [image002.jpg]
                             [**2124-3-14**]  04:53 PM
                             [**2124-3-14**]  06:06 PM
                             [**2124-3-14**]  09:44 PM
                             [**2124-3-14**]  09:49 PM
                             [**2124-3-15**]  03:59 AM
                             [**2124-3-15**]  04:04 AM
                             [**2124-3-15**]  11:39 AM
                             [**2124-3-15**]  11:47 AM
                             [**2124-3-15**]  04:26 PM
                             [**2124-3-16**]  03:35 AM
   WBC
   9.7
   9.1
   Hct
   22.1
   19.9
   25.1
   21.6
   Plt
   124
   193
   Cr
   0.7
   1.1
   TCO2
   25
   26
   28
   25
   27
   Glucose
   107
   98
   87
   Other labs: PT / PTT / INR:18.9/27.6/1.7, CK / CKMB /
   Troponin-T:135/9/0.01, ALT / AST:[**1-20**], Alk Phos / T Bili:128/0.3,
   Amylase / Lipase:14/5, Differential-Neuts:40.1 %, Band:1.0 %,
   Lymph:33.0 %, Mono:3.3 %, Eos:23.4 %, D-dimer:3247 ng/mL,
   Fibrinogen:259 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:132
   IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Microbiology: no new cultures positive
   Assessment and Plan
 BACTEREMIA
   last day of linezolid is [**2124-3-24**]
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   likely ATN, on CVVH
 ATRIAL FIBRILLATION (AFIB)
   on amiodarone, in NSR
 GANGRENE
   of fingertips. [**3-14**] pressors, shock
 .H/O ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY
   ISCHEMIA)
 IMPAIRED SKIN INTEGRITY
 THROMBOCYTOPENIA, ACUTE
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
   68 yo male with RCC presenting 3 days s/p IL2 infusion with shock,
   bacteremia, renal failure and altered mental status now improving with
   blood cultures persistantly negative on antibiotics, tolerating PSV,
   running net negative on CVVH, nolonger requiring pressors.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): Patient passed breathing
   trial.  Can be extubated today as mental status is improving.  Will
   continue to follow respiratory status.
 BACTEREMIA:
   On Linezolid for MRSA and VRE. Completed cefepime and levo for Ecoli
   UTI. no new growth in surveillance cultures. Metronidazole for empiric
   cdiff, can d/c when [**4-12**] cdiffs negative
   - continue linezolid [**3-14**] is day [**6-23**] -> can likely be transitioned to
   po
   - d/c flagyl - last cdiff negative
   - f/u tip culture and repeat blood cultures
   - will address removal of lines as renal function improves (see below)
   and nolonger requires pressors
 ATRIAL FIBRILLATION (AFIB): Likely was in setting of sepsis, volume
   overload. On amiodarone, though currently NSR. ROMI complete.
   - Can likely d/c amiodarone, will follow post-extubation
 SHOCK, OTHER: Likely IL2 vs sepsis
   - Continue abx (see above)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) :Likely ATN, on CVVH.
   UOP has improved remarkadly.  Will likely not require HD.
   -D/w renal, will likely not need HD as UOP continues to improve.
 THROMBOCYTOPENIA, ACUTE: Stable.
 COAGULOPATHY: Improved
 ALTERATION IN NUTRITION: Tube feeds have been on hold, patient w/
   high residuals.  Post-extubation will get Speech and Swallow consult,
   advance diet as tolerated.
 ALTERED MENTAL STATUS: Improved.
 IMPAIRED SKIN INTEGRITY
   wound care per recs
   #. RCC:
   -per Dr. [**Last Name (STitle) 12918**]
   EMERGENCY CONTACT: wife
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2124-3-8**] 05:44 PM
   Multi Lumen - [**2124-3-9**] 07:30 PM
   Arterial Line - [**2124-3-12**] 03:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU